US04797417
To a solution of 3-(4-methoxy-5-oxo-3-phenyl-2,5-dihydro-2-furyl)propionic acid (3 g) and triethylamine (1.95 ml) in tetrahydrofuran was added dropwise iso-butyl chloroformate (1.79 ml) at -20° C. with stirring and the mixture was stirred for 40 minutes at the same temperature. To this mixture was added sodium borohydride (1.11 g) at -20° C. and the mixture was stirred for 3 hours at ambient temperature. After being acidified with 10% hydrochloric acid at 0° , the solvent was removed under the reduced pressure to give a residue which was poured into water and extracted with diethyl ether. The ethereal extract was washed with lN hydrochloric acid and saturated aqueous solution of sodium bicarbonate successively and dried. Evaporation of the solvent gave an oil which was chromatographed on silica gel in chloroform to give 5-(3-hydroxypropyl)-3-methoxy-4- phenyl-2(5H)-furanone (2.35 g) as an oil.

reactant | 3-(4-methoxy-5-oxo-3-phenyl-2,5-dihydro-2-furyl)propionic acid | 3 g | COC1=C(C(OC1=O)CCC(=O)O)C1=CC=CC=C1 | C14H14O5
reactant | iso-butyl chloroformate | 1.79 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | sodium borohydride | 1.11 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | triethylamine | 1.95 ml | C(C)N(CC)CC | C6H15N
product | 5-(3-hydroxypropyl)-3-methoxy-4- phenyl-2(5H)-furanone | 2.35 g | OCCCC1C(=C(C(O1)=O)OC)C1=CC=CC=C1 | C14H16O4
